### ISSUE TITLE
[CYCLE_4] Prove cycle4_element_contains_shared by contradiction

### ISSUE THREAD

**Issue by kavanaghpatrick** [kavanaghpatrick/aristotle-math-problems#29]
## Goal
Prove: Every edge of a cycle_4 packing element (A, B, C, or D) contains at least one shared vertex.

```lean
lemma cycle4_element_contains_shared (G : SimpleGraph V) [DecidableRel G.Adj]
    (M : Finset (Finset V)) (cfg : Cycle4 G M)
    (X : Finset V) (hX : X ∈ M)
    (e : Sym2 V) (he : e ∈ X.sym2) :
    cfg.v_ab ∈ e ∨ cfg.v_bc ∈ e ∨ cfg.v_cd ∈ e ∨ cfg.v_da ∈ e
```

## Why It's TRUE (structural argument)
Each triangle X in cycle_4 has exactly 3 vertices:
- Two shared vertices (with adjacent triangles)
- One private vertex

For X = A = {v_ab, v_da, a_priv}:
- Edge {v_ab, v_da}: contains v_ab AND v_da ✓
- Edge {v_ab, a_priv}: contains v_ab ✓
- Edge {v_da, a_priv}: contains v_da ✓

**All edges contain a shared vertex!**

## Proof Strategy (Grok-recommended)
**By CONTRADICTION:**
1. Assume edge e in X contains NO shared vertex
2. This means both endpoints are private to X
3. But X only has ONE private vertex
4. So e cannot have two distinct non-shared endpoints
5. Contradiction!

## Lean 4 Proof Sketch
```lean
by
  intro e he
  by_contra h_not
  push_neg at h_not
  -- e = {a, b} where a, b are both not shared vertices
  -- But X.card = 3 with 2 shared vertices, only 1 private
  -- So at most 0 edges have 0 shared vertices - contradiction
  cases cfg.hM_eq ▸ hX <;> simp_all
```

## Dependencies
- REQUIRES: Cycle4 distinctness axioms (Issue #__)
- BLOCKS: support_sunflower, triangles_partition_by_shared_vertex, tau_le_8_cycle4

## FALSE LEMMAS TO AVOID
- DO NOT use tau_at_shared_vertex_le_2_general (FALSE - entry #26)
- DO NOT use local_cover_le_2 (FALSE - entry #24)
- This lemma is about EDGES of packing elements, NOT about covering triangles

**Comment by kavanaghpatrick** [comment]
## AI Debate Consensus (Dec 28, 2025)

### Participants: Gemini, Grok-4

### VERDICT: ✅ PROOF IS CORRECT

The proof by contradiction is sound. It's a **pigeonhole argument on set sizes**.

### Key Points of Agreement

1. **The logic is correct:**
   - Shared vertices S = {v_ab, v_da}, |S| = 2
   - Private vertices P = {a_priv}, |P| = 1
   - If edge e ⊆ P, then |e| ≤ |P| = 1, but |e| = 2 → contradiction

2. **CRITICAL PREREQUISITE:** Must prove `v_ab ≠ v_da`
   - Follows from `(B ∩ D).card = 0`
   - If v_ab = v_da, then v_ab ∈ B ∩ D, contradicting B ∩ D = ∅
   - Add as explicit lemma or hypothesis

3. **Lean 4 Implementation:**
   - Use `Finset.card_sdiff` for the counting argument
   - Use `by_contra` + `linarith` for the contradiction
   - Add `distinct_vertices` lemma as prerequisite

### Gemini's Lean 4 Sketch (key fragment)
```lean
have h_shared_distinct : (A ∩ B) ∩ (D ∩ A) = ∅ := by
  rw [Finset.card_eq_zero.mp hBD, ...]  -- B ∩ D = ∅

have S_card : S.card = 2 := by
  rw [Finset.card_union_of_disjoint ..., hAB, hDA]

-- Contradiction: |A \ S| = 1 but |e| = 2
have : e.card ≤ (A \ S).card := Finset.card_le_card e_subset_diff
rw [Finset.card_sdiff, hA_size, S_card] at this  -- 2 ≤ 1
norm_num at this
```

### No False Lemmas Invoked ✓
This proof does NOT use any of the known false lemmas (tau_at_shared_vertex_le_2, local_cover_le_2, etc.)
